US07932398B2
Air in a 20 ml Schlenk tube was replaced by Ar gas and 1.02 g (7 mmol) of m-ethynylbenzoic acid and 5 g (42 mmol) of thionyl chloride were added to the tube and the mixture was stirred at 50° C. for 2 hours and then excess thionyl chloride was removed by distillation under reduced pressure to obtain m-ethynylbenzoyl chloride. To the m-ethynylbenzoyl chloride obtained was added 7 ml of dichloromethane and the resultant mixture was ice-cooled. Then, 515 mg (7.35 mmol) of sodium methanethiolate was added to the mixture and the mixture was stirred at room temperature for 3 hours. After completion of the stirring, dichloromethane was removed by distillation under reduced pressure and 35 ml of water was added to the resultant residue. The mixture was extracted with 35 ml of ethyl acetate and the extract was dried over magnesium sulfate and the solvent was removed by distillation under reduced pressure using an evaporator. The resultant crude reaction product was purified by column chromatography (Hexane/AcOEt=10/1) using silica gel to obtain 0.49 g of S-methyl 3-ethynyl-thiobenzoate which is a desired product as yellow solid. (Yield: 40%)

reactant | m-ethynylbenzoyl chloride | C(#C)C=1C=C(C(=O)Cl)C=CC1 | C9H5ClO
reactant | sodium methanethiolate | 7.35 mmol, 515 mg | C[S-].[Na+]
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | S-methyl 3-ethynyl-thiobenzoate | 0.49 g | C(#C)C=1C=C(C(=O)SC)C=CC1 | C10H8OS
